US07932272B2
2-Amino-N-(4-benzyloxy-benzyl)-thionicotinamide
A mixture of 2-amino-N-(4-benzyloxy-benzyl)-nicotinamide described in Example A-17 (220 mg, 0.67 mmol), 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulphide (Lawesson's reagent) (670 mg, 1.7 mmol) and toluene (8 mL) was stirred at 80° C. for 15 minutes, then, refluxed for 45 minutes. After cooling, the precipitate was filtered, and the filtrate was evaporated in vacuo. Purification was carried out by NH silica gel column chromatography (ethyl acetate), and the title compound (28 mg, 0.080 mmol, 12%) was obtained as a pale yellow oil.

reactant | 2-amino-N-(4-benzyloxy-benzyl)-nicotinamide | NC1=C(C(=O)NCC2=CC=C(C=C2)OCC2=CC=CC=C2)C=CC=N1 | C20H19N3O2
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulphide | 1.7 mmol, 670 mg | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Amino-N-(4-benzyloxy-benzyl)-thionicotinamide | 0.080 mmol, 28 mg, 12% | NC1=C(C(=S)NCC2=CC=C(C=C2)OCC2=CC=CC=C2)C=CC=N1 | C20H19N3OS
